US08242116B2
4-Chloro-2-iodo-6-(trifluoromethoxy)aniline
To a stirred solution of 4-chloro-2-(trifluoromethoxy)aniline (1.0 g, 4.7 mmol) in EtOH (50 mL) at 50° C. was added a slurry of iodine (1.2 g, 9.6 mmol) and silver sulfate (2.6 g, 8.4 mmol) in EtOH (30 mL). The reaction mixture was stirred in darkness at 50° C. for 24 h, then cooled to r.t. and filtered through Celite®. The filtrate was concentrated in vacuo. Purification by column chromatography (SiO2, 0-55% ethyl acetate/hexanes) gave the title compound (1.6 g, quantitative) as a pale brown solid. δH (CDCl3) 7.59 (1H, d, J 1.7 Hz), 7.18 (1H, d, J 1.7 Hz), 4.35 (2H, br. s). LCMS (ES+) 337.8 (M+H)+, RT 3.81 minutes (Method 5).

reactant | 4-chloro-2-(trifluoromethoxy)aniline | 4.7 mmol, 1.0 g | ClC1=CC(=C(N)C=C1)OC(F)(F)F | C7H5ClF3NO
reactant | iodine | 9.6 mmol, 1.2 g | II | I2
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | silver sulfate | 8.4 mmol, 2.6 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 4-Chloro-2-iodo-6-(trifluoromethoxy)aniline | 1.6 g | ClC1=CC(=C(N)C(=C1)OC(F)(F)F)I | C7H4ClF3INO
